US04925975
A teflon vessel was charged with 75% aqueous solution of CF3SO3H used in Example 1, and 50% aqueous solution of NaOH (free fluorine 33 ppm, free chlorine ppm, carbonate radical 1.1%) was poured into the solution such that the reaction between the acid and the alkali proceeded under acidic conditions and terminated while pH of the reaction liquid was 2. Then the reaction liquid was dried in the same manner as in Example 1 to thereby obtain a powder of CF3SO3Na.

reactant | CF3SO3H | C(F)(F)(F)S(=O)(=O)O | CHF3O3S
reactant | NaOH | [OH-].[Na+]
reactant | fluorine | FF | F2
reactant | chlorine | ClCl | Cl2
reactant | carbonate | C([O-])([O-])=O
product | CF3SO3Na | C(F)(F)(F)S(=O)(=O)O[Na] | InChI=1S/CHF3O3S.Na/c2-1(3,4)8(5,6)7;/h(H,5,6,7);/q;+1/p-1
